US07452892B2
B. Preparation of 5-bromo-4,6-dimethoxypyrimidine
To the solution of 4,6-dimethoxypyrimidine (5 g, 35.7 mmol) in HOAc (20 mL) at room temperature under argon was added Ac2O (4.6 g, 44.6 mmol). The resulting solution was heated at 100° C. for 10 min and then NBS (7.9 g, 44.6 mmol) was added. Heating was continued at 100° C. for 5 h. Analysis by HPLC/MS indicated that the reaction was complete. After the reaction mixture was cooled to room temperature, water (50 mL) was added. The resulting precipitate was collected by filtration and further washed with water (15 mL×3), then dried under vacuum. The title compound (7.5 g) was obtained as a white solid. 1H NMR (CDCl3): δ 4.05 (s, 6H), 8.32 (s, 1H). 13C NMR (CDCl3): δ 55.2, 89.0, 154.9, 166.8.

reactant | 4,6-dimethoxypyrimidine | 35.7 mmol, 5 g | COC1=NC=NC(=C1)OC | C6H8N2O2
reactant | Ac2O | 44.6 mmol, 4.6 g | CC(=O)OC(=O)C | C4H6O3
reactant | NBS | 44.6 mmol, 7.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 50 mL | O | H2O
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
product | 5-bromo-4,6-dimethoxypyrimidine | 7.5 g | BrC=1C(=NC=NC1OC)OC | C6H7BrN2O2
